US05192785
Sulfamic acid 2-(2-oxo-1-pyrrolidinyl)ethyl ester
A solution of 6.5 g (0.05 mole) of 1-(2-hydroxyethyl)-2-pyrrolidone (Fluka) in 100 ml of methylene chloride was treated with 5.8 (0.05 mole) of sulfamoyl chloride. The solution was stirred for 2 hr, then concentrated under vacuum. The residue was crystallized twice from 2-propanol to give 6.9 g (66%) of the title compound as white crystals, mp 110°-112° C. The compound was noted to be slightly hygroscopic.

reactant | 1-(2-hydroxyethyl)-2-pyrrolidone | 0.05 mole, 6.5 g | OCCN1C(CCC1)=O | C6H11NO2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Sulfamic acid 2-(2-oxo-1-pyrrolidinyl)ethyl ester | 6.9 g, 66% | O=C1N(CCC1)CCOS(N)(=O)=O | C6H12N2O4S
